US07645789B2
N-(7-(Aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (20 mg, 0.049 mmol) was dissolved in DMF (0.5 mL) containing triethylamine (20.6 μL, 0.147 mmol) and a magnetic stir bar. Methanesulfonyl chloride (4.2 μL, 0.054 mmol) was then added to the reaction mixture. The reaction mixture was allowed to stir for 12 h at room temperature. The crude product was purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-(methylsulfonamidomethyl)-1H-indol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 483.2, found 484.3 (M+1)+. Retention time of 1.84 minutes.

reactant | N-(7-(Aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.049 mmol, 20 mg | NCC=1C=C(C=C2C=C(NC12)C(C)(C)C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C24H27N3O3
reactant | triethylamine | 0.147 mmol, 20.6 μL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.054 mmol, 4.2 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-(methylsulfonamidomethyl)-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)CNS(=O)(=O)C)C(C)(C)C | C25H29N3O5S
